US06291455B1
7-hydroxy-3-methylpivaloyl-3,4-dihydroquinazolin-4-one (750mg, 2.7 mmol) was suspended in methylene chloride (40 ml) and 4-(3-hydroxypropyl)morpholine (490 mg, 3.4 mmol) and triphenylphosphine (890 mg, 3.4 mmol) were added at 5° C. The mixture was stirred for 5 minutes at 5° C. and diethyl azodicarboxylate (590 mg, 3.4 mmol) was added over 5 minutes. The reaction mixture was stirred at 5° C. for 30 minutes then at ambient temperature for 1 hour. The reaction mixture was purified directly by column chromatography eluting with methylene chloride, then ethyl acetate, then acetonitrile/ethyl acetate (1/5), and finally acetonitrile/ethyl acetate/aqueous ammonia (50/50/0.5). The purified product was triturated with ether/isohexane and collected by filtration to give 3-methylpivaloyl-7-(3-morpholinopropoxy)-3,4-dihydroquinazolin-4-one (745 mg, 68%).

reactant | 7-hydroxy-3-methylpivaloyl-3,4-dihydroquinazolin-4-one | 2.7 mmol, 750mg | OC1=CC=C2C(NC(=NC2=C1)C(C(CC)(C)C)=O)=O | C14H16N2O3
reactant | 4-(3-hydroxypropyl)morpholine | 3.4 mmol, 490 mg | OCCCN1CCOCC1 | C7H15NO2
reactant | triphenylphosphine | 3.4 mmol, 890 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.4 mmol, 590 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 3-methylpivaloyl-7-(3-morpholinopropoxy)-3,4-dihydroquinazolin-4-one | 745 mg, 68% | CCC(C(=O)C1=NC2=CC(=CC=C2C(N1)=O)OCCCN1CCOCC1)(C)C | C21H29N3O4
